US09233098B2
2. Preparation of 2-ethyl-3-(4-nitrobenzyl)-1H-indole
In an ice water bath, trifluoroacetic acid (4.4 g, 38.6 mmol), triethylsilane (9.02 g, 77.6 mmol), dichloromethane 15 mL were added into a reaction vessel. After stirring for 5 min, a dichloromethane solution dissolving 2-ethyl-1H-indole (3.74 g, 25.8 mmol) and p-nitro benzaldehyde (4.29 g, 28.4 mmol) was added dropwise slowly into the reaction vessel. After completion of dropwise addition it was reacted maintaining this temperature for 1 h, adjusted to pH=8-9 with 2 M solution of sodium hydroxide. An aqueous solution of sodium chloride was added, and extracted with dichloromethane. The extract was dried over anhydrous sodium sulfate, concentrated to dryness to obtain a red brown solid, washed with a small amount of diethyl ether to obtain a yellow powdered solid 3 g, at a yield of 41.5%.

reactant | trifluoroacetic acid | 38.6 mmol, 4.4 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 77.6 mmol, 9.02 g | C(C)[SiH](CC)CC | C6H16Si
reactant | 2-ethyl-1H-indole | 25.8 mmol, 3.74 g | C(C)C=1NC2=CC=CC=C2C1 | C10H11N
reactant | p-nitro benzaldehyde | 28.4 mmol, 4.29 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-ethyl-3-(4-nitrobenzyl)-1H-indole | 3 g, yield of 41.5% | C(C)C=1NC2=CC=CC=C2C1CC1=CC=C(C=C1)[N+](=O)[O-] | C17H16N2O2
